US05886210
A 50-mL round-bottom flask was equipped with a magnetic stir bar, reflux condenser, thermometer, nitrogen inlet, and heating mantle attached to a temperature controller. The flask was charged with 2,3-dichlorobenzoic acid (4.55 g, 23.8 mmol) and copper powder (3.02 g, 47.6 mmol). Propionic acid (30 mL) was added, and the resulting mixture was heated to 130°-135° C. The reaction was monitored by GC analysis and was judged to be complete when the starting material was no longer detectable (1 hour). Ethyl acetate (30 mL) was added as the reaction mixture was cooled to room temperature. The resulting mixture was filtered, and the solids were washed with ethyl acetate. The filtrates were blue-green. The filtrates were combined and washed with 1M hydrochloric acid solution until the blue-green color disappeared. The resulting yellow organic layer was washed with water and dried over sodium sulfate. The solvent was removed by evaporation under reduced pressure. The residue was dried under vacuum to afford 3.55 g of 3-chlorobenzoic acid as a pale yellow solid, mp 153°-153.5° C.

reactant | 2,3-dichlorobenzoic acid | 23.8 mmol, 4.55 g | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | Propionic acid | 30 mL | C(CC)(=O)O | C3H6O2
catalyst | copper | 47.6 mmol, 3.02 g | [Cu] | Cu
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-chlorobenzoic acid | 3.55 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
